US06730788B1
2-[(1-methylpropyl)]-9-[(1-hydroxy-1-methylpropyl)]-1,10-phenanthroline
The title compound is prepared by following the General Procedure I with samarium diiodide and 2-(2-butyl)-1,10-phenanthroline, prepared as described by Example 16, and 2-butanone.

reactant | samarium diiodide | [I-].[I-].[Sm+2]
reactant | 2-(2-butyl)-1,10-phenanthroline | CC(CC)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C16H16N2
reactant | 2-butanone | CC(CC)=O | C4H8O
product | 2-[(1-methylpropyl)]-9-[(1-hydroxy-1-methylpropyl)]-1,10-phenanthroline | CC(CC)C1=NC2=C3N=C(C=CC3=CC=C2C=C1)C(CC)(C)O | C20H24N2O
